US07790704B2
c) 6-(5-chloro-2-hydroxy-3-nitrophenyl)-pyridine-2-carboxylic Acid
To the solution of 6-(5-chloro-2-hydroxyphenyl)-pyridine-2-carboxylic acid; (2.3 g, 10.1 mmol) in 100 ml acetic acid; was added 1 ml fuming nitric acid; and stirred at 35° C. to 40° C. for half an hour. The reaction mixture was diluted with water and adjusted pH to 2.5. The resulting precipitation was collected, washed and dried to give solid (2.74 g; 78%, three steps). MS (ES) m/z 295 [M+H].

reactant | 6-(5-chloro-2-hydroxyphenyl)-pyridine-2-carboxylic acid | ClC=1C=CC(=C(C1)C1=CC=CC(=N1)C(=O)O)O | C12H8ClNO3
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 6-(5-chloro-2-hydroxy-3-nitrophenyl)-pyridine-2-carboxylic Acid | ClC=1C=C(C(=C(C1)C1=CC=CC(=N1)C(=O)O)O)[N+](=O)[O-] | C12H7ClN2O5
